US06759554B2
1-(4-Methylphenyl)-2-phenylindole.
Using the general procedure outlined in Example 63, 2-phenylindole (0.232 g, 1.20 mmol) was coupled with 5-iodo-m-xylene (144 μL, 1.00 mmol) using CuI (9.5 mg, 0.050 mmol, 5.0 mol %), K3PO4 (2.1 mmol), trans-1,2-cyclohexanediamine (24 μL, 0.20 mmol, 20 mol %) and dioxane (0.5 mL) to give the crude product. Column chromatography (2×15 cm, hexane:ethyl acetate 10:1) provided 0.220 g (74% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.92 (m, 1H), 7.55 (m, 3H), 7.47 (m, 3H), 7.41 (m, 2H), 7.20 (bs, 2H), 7.05 (d, 1H, J=0.6 Hz), 2.52 (s, 6H). 13C NMR (100 MHz, CDCl3): δ 140.63, 139.10, 138.82, 138.29, 132.60, 128.90, 128.70, 128.14, 128.03, 127.12, 125.66, 122.09, 120.48, 120.39, 21.19.

reactant | 2-phenylindole | 1.20 mmol, 0.232 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | 5-iodo-m-xylene | 1.00 mmol, 144 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | K3PO4 | 2.1 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-cyclohexanediamine | 0.20 mmol, 24 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
catalyst | CuI | 0.050 mmol, 9.5 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Methylphenyl)-2-phenylindole | 0.220 g, 74% yield | CC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C21H17N
